US09359345B2
To a solution of 6-tert-butylnicotinic acid (23.5 mg, 131 μmol) and 2-((R)-3-amino-piperidin-1-yl)-5-(pyridin-2-ylamino)-thiazole-4-carboxylic acid amide (38 mg, 119 μmol) in N,N-dimethylformamide (1 mL) was added diisopropylethylamine (35 μL, 200 μmol) followed by 0-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (61 mg, 161 μmol). After stirring at ambient temperature overnight under an atmosphere of argon the reaction was quenched by the addition of saturated aqueous ammonium chloride (2 mL), the mixture poured into water (5 mL) and extracted with ethyl acetate (3×3 mL). The combined organic extracts were washed with brine (2×2 mL), dried over sodium sulfate, filtered and concentrated in vacuo to a yellow solid. The crude product was purified by chromatography using a 13 g C-18 column gradient eluted from 10% acetonitrile in water up to 100% acetonitrile. The product containing fractions were combined and concentrated in vacuo and the residue lyophilized from acetonitrile/water to give (R)-2-(3-(6-tert-butylnicotinamido)piperidin-1-yl)-5-(pyridin-2-ylamino)thiazole-4-carboxamide as a pale yellow solid (37.8 mg, 66%).

reactant | 6-tert-butylnicotinic acid | 131 μmol, 23.5 mg | C(C)(C)(C)C1=NC=C(C(=O)O)C=C1 | C10H13NO2
reactant | 2-((R)-3-amino-piperidin-1-yl)-5-(pyridin-2-ylamino)-thiazole-4-carboxylic acid amide | 119 μmol, 38 mg | N[C@H]1CN(CCC1)C=1SC(=C(N1)C(=O)N)NC1=NC=CC=C1 | C14H18N6OS
reactant | diisopropylethylamine | 200 μmol, 35 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 0-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 161 μmol, 61 mg | CN(C)C(=[N+](C)C)ON1C2=CC=CC=C2N=N1.F[P-](F)(F)(F)(F)F
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | (R)-2-(3-(6-tert-butylnicotinamido)piperidin-1-yl)-5-(pyridin-2-ylamino)thiazole-4-carboxamide | 37.8 mg, 66% | C(C)(C)(C)C1=NC=C(C(=O)N[C@H]2CN(CCC2)C=2SC(=C(N2)C(=O)N)NC2=NC=CC=C2)C=C1 | C24H29N7O2S
